US07301022B2
4-(6-(2-((2-Methylpyrrolidin-1-yl)methyl)-4-(trifluoromethyl)phenyl)pyrimidin-4-yloxy)benzo[d]thiazol-2-amine.
2-((2-Methylpyrrolidin-1-yl)-methyl)-4-(trifluoromethyl)phenylboronic acid, Example 19(b), (72 mg, 0.25 mmol) and 4-(6-iodopyrimidin-4-yloxy)benzo[d]thiazol-2-amine (93 mg, 0.25 mmol, prepared as described in WO04014871) was reacted under conditions of Example 19(f) to give the title compound. MS (ESI, pos. ion.) m/z: 486 (M+1).

reactant | 2-((2-Methylpyrrolidin-1-yl)-methyl)-4-(trifluoromethyl)phenylboronic acid | CC1N(CCC1)CC1=C(C=CC(=C1)C(F)(F)F)B(O)O | C13H17BF3NO2
reactant | 4-(6-iodopyrimidin-4-yloxy)benzo[d]thiazol-2-amine | 0.25 mmol, 93 mg | IC1=CC(=NC=N1)OC1=CC=CC2=C1N=C(S2)N | C11H7IN4OS
product | 4-(6-(2-((2-Methylpyrrolidin-1-yl)methyl)-4-(trifluoromethyl)phenyl)pyrimidin-4-yloxy)benzo[d]thiazol-2-amine | CC1N(CCC1)CC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=NC=N1)OC1=CC=CC2=C1N=C(S2)N | C24H22F3N5OS
